US06528068B1
Synthesis of N-octanoyl-N-methyl-β-alanine isopropyl ester
Fifty-seven(57) grams of N-octanoyl-N-methyl-β-alanine and 500 ml of isopropanol were charged into a 1,000-milliliter flask, and 1 ml of conc. sulfuric acid was further added thereto as the catalyst. The mixture was heated under reflux reaction for 8 hours.

reactant | N-octanoyl-N-methyl-β-alanine | C(CCCCCCC)(=O)N(CCC(=O)O)C | C12H23NO3
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | isopropanol | 500 ml | C(C)(C)O | C3H8O
product | N-octanoyl-N-methyl-β-alanine isopropyl ester | C(C)(C)OC(CCN(C)C(CCCCCCC)=O)=O | C15H29NO3
